US09085555B2
(3-Acetyl-6-cyano-indol-1-yl)-acetic acid
was prepared from 1H-indole-6-carbonitrile in a similar manner as described in Scheme A13 for the preparation of (3-acetyl-5-trifluoromethoxy-indol-1-yl)-acetic acid. MS: 243 [M+H]+; tR (HPLC conditions k): 2.72 min.

reactant | 1H-indole-6-carbonitrile | N1C=CC2=CC=C(C=C12)C#N | C9H6N2
reactant | (3-acetyl-5-trifluoromethoxy-indol-1-yl)-acetic acid | C(C)(=O)C1=CN(C2=CC=C(C=C12)OC(F)(F)F)CC(=O)O | C13H10F3NO4
product | (3-Acetyl-6-cyano-indol-1-yl)-acetic acid | C(C)(=O)C1=CN(C2=CC(=CC=C12)C#N)CC(=O)O | C13H10N2O3
